US05462954
1-Phenyl-1-(1H-tetrazol-5-yl)-6-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)hexane
2-Phenyl-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptanenitrile (700 mg, 1.38 mmol) was dissolved in dimethylformamide (20 mL) and sodium azide (0.6 g) and triethylamine hydrochloride added (1.2 g) and the stirred suspension heated at 110° C. for 3 days. The suspension was then added to 1M hydrochloric acid (100 mL) and the solution extracted 4 times with chloroform. The combined chloroform extracts were washed with water and dried with magnesium sulfate. On evaporation the solution yielded 680 mg (72%) of the title compound as a crude oil which was then directly deprotected.

reactant | 2-Phenyl-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptanenitrile | 1.38 mmol, 700 mg | C1(=CC=CC=C1)C(C#N)CCCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC | C34H34FNO2
reactant | sodium azide | 0.6 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 1M, 100 mL | Cl | ClH
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-Phenyl-1-(1H-tetrazol-5-yl)-6-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)hexane | 680 mg, 72% | C1(=CC=CC=C1)C(CCCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)C1=NN=NN1 | C27H29FN4O2
